US08491869B2
tert-Butyl methyl(4-(4-fluoroquinolin-2-yl)phenyl)carbamate was prepared using general procedure M from tert-butyl methyl(4-(4-nitroquinolin-2-yl)phenyl)carbamate (10 mg, 0.026 mmol) and KF (60 mg, 1 mmol). tert-butyl (4-(4-fluoroquinolin-2-yl)phenyl)(methyl)carbamate was isolated as a clear oil (4.5 mg, 49%). 1H NMR (400 MHz, CDCl3): δ 8.16 (m, 1H), 8.12-8.07 (m, 3H), 7.78 (m, 1H), 7.59-7.54 (m, 2H), 7.41 (m, 1H), 3.32 (s, 3H), 1.48 (s, 9H); MS (ESI): 353 (M+H+).

reactant | tert-butyl methyl(4-(4-nitroquinolin-2-yl)phenyl)carbamate | 0.026 mmol, 10 mg | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)[N+](=O)[O-] | C21H21N3O4
reactant | KF | 1 mmol, 60 mg | [F-].[K+]
product | tert-butyl (4-(4-fluoroquinolin-2-yl)phenyl)(methyl)carbamate | FC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)N(C(OC(C)(C)C)=O)C | C21H21FN2O2
